US09388166B2
To a solution of 2-(4-chloro-2-methoxy-pyridin-3-yl)-1H-indol-6-ylamine (35 mg, 0.13 mmol) in CH2Cl2 (5 mL) was added (S)-1-(4-fluoro-benzenesulfonyl)-piperidine-2-carboxylic acid (37 mg, 0.13 mmol) and HATU (49 mg, 0.13 mol). The solution was stirred at 25° C. for 1 h and poured into water. The aqueous phase was extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over magnesium sulfate. Filtration followed by concentration in vacuo gave a brown solid. Flash chromatography (70/30 hexanes/ethyl acetate) afforded (S)-1-(4-fluoro-benzenesulfonyl)-piperidine-2-carboxylic acid[2-(4-chloro-2-methoxy-pyridin-3-yl)-1H-indol-6-yl]-amide (60 mg, 86%) as a white solid. MH+ 543.0.

reactant | 2-(4-chloro-2-methoxy-pyridin-3-yl)-1H-indol-6-ylamine | 0.13 mmol, 35 mg | ClC1=C(C(=NC=C1)OC)C=1NC2=CC(=CC=C2C1)N | C14H12ClN3O
reactant | (S)-1-(4-fluoro-benzenesulfonyl)-piperidine-2-carboxylic acid | 0.13 mmol, 37 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)O | C12H14FNO4S
reactant | HATU | 0.13 mol, 49 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | water | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(4-fluoro-benzenesulfonyl)-piperidine-2-carboxylic acid[2-(4-chloro-2-methoxy-pyridin-3-yl)-1H-indol-6-yl]-amide | 60 mg, 86% | ClC1=C(C(=NC=C1)OC)C=1NC2=CC(=CC=C2C1)NC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC=C(C=C1)F | C26H24ClFN4O4S
